US07253168B2
A mixture of the crude cis-1-(2-chloroacetyl)-5-(4-methoxy-2,3-dimethyl-phenyl)pyrrolidine-2-carboxylic acid ethyl ester (˜16.56 mmol) and ca. 7 M NH3 in MeOH (50 mL) is stirred in a sealed flask at room temperature for 2.5 days. The mixture is then diluted with water (ca. 200-300 mL). The resulting suspension is cooled to 0° C. and stirred well. The mixture is then filtered and the solid thoroughly washed with water followed by Et2O. Drying affords cis-6-(4-methoxy-2,3-dimethylphenyl)hexahydropyrrolo[1,2-a]pyrazine-1,4-dione as a slightly off-white powder. 1H NMR (CDCl3, 400 MHz): 6.70 (br, 1H), 6.68 (d, J=8.6 Hz, 1H), 6.64 (d, J=8.6 Hz, 1H), 5.38 (d, J=8.8 Hz, 1H), 4.29 (dd, J=10.8, 6.4 Hz, 1H), 4.10, 3.93 (ABXq, JAB=16.8 Hz, JAX=1.0 Hz, JBX=4.8 Hz, 2H), 3.77 (s, 3H), 2.43-2.31 (m, 1H), 2.26 (s, 3H), 2.24-2.11 (m, 2H), 2.16 (s, 3H), 1.85 (dd, J=12.2, 5.8 Hz, 1H). Electrospray MS: m/z 289 [M+1].

reactant | cis-1-(2-chloroacetyl)-5-(4-methoxy-2,3-dimethyl-phenyl)pyrrolidine-2-carboxylic acid ethyl ester | ˜16.56 mmol | C(C)OC(=O)[C@@H]1N([C@@H](CC1)C1=C(C(=C(C=C1)OC)C)C)C(CCl)=O | C18H24ClNO4
reactant | NH3 | ca. 7 M | N | H3N
solvent | MeOH | 50 mL | CO | CH4O
solvent | water | ca. 200-300 mL | O | H2O
product | cis-6-(4-methoxy-2,3-dimethylphenyl)hexahydropyrrolo[1,2-a]pyrazine-1,4-dione | COC1=C(C(=C(C=C1)[C@@H]1CC[C@@H]2N1C(CNC2=O)=O)C)C | C16H20N2O3
